US05905084
5-(N-[ethyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
A mixture of 0.200 gm (0.74 mMol) 5-(N-[acetyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.125 gm (3.31 mMol) lithium aluminum hydride in 40 mL tetrahydrofuran was heated at 75° C. for 18 hours. The reaction mixture was cooled to 0° C. and was then treated with sodium sulfate decahydrate. After vigorous stirring the reaction mixture was filtered through a pad of celite and the filtrate concentrated under reduced pressure. The residue was subjected to flash silica gel chromatography, eluting with dichloromethane containing from 0-20% methanol. Fractions containing product were combined and concentrated under reduced pressure to provide 0.10 gm (54%) of the title compound.

reactant | 5-(N-[acetyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.74 mMol, 0.200 gm | C(C)(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C15H20N4O
reactant | lithium aluminum hydride | 3.31 mMol, 0.125 gm | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 5-(N-[ethyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.10 gm, 54% | C(C)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C15H22N4
